Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3][H:4].[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.3051021174
[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-2.42696257307
[C:2](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:14]([H:15])([H:16])[H:17].[H:1][C:3][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2](/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-5.69429721405
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],1.6504709463499998
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:1]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[C:2]#[C:3],7.324461597669999
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.21161419115
[H:6].[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-1.84073804397
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-3.72907591626
[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][H:10],-5.507718323730002
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9][H:10],4.66277403012
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10],7.53231656352
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1],4.83244223181
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3](=[C:4]=[O:5])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.36525919316
[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],5.39026019697
[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])#[C:6][H:7].[O:1][O:2][C:3][C:8]([H:9])([H:10])[H:11],2.39462290007
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],7.676727029260001
[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],3.27874385462
[C:1]#[C:2][C:3]([H:4])[O:6][O:7][H:8].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7][H:8],-1.96452948493
[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.35656621852
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],4.20139503553
[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.5812080066
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.60029895111
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9])[O:10][H:11]>>[H:1][O:2][C:3]([C:4]#[C:5][C:7]([H:8])[H:9])[O:10][H:11].[H:6],2.69439193925
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[C:11]([H:12])[H:13],-2.61681824633
[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-2.73497387883
[O:1]=[C:2]([H:3])[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],3.55982022655
[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3](#[C:4][H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:6]([H:7])[H:8],1.81175819915
